Simple RC Circuit
*SPICE Netlist generated by Advanced Sim server on 9/16/2024 12:53:59 PM
.options MixedSimGenerated

*Schematic Netlist:
CC1 X 0 50P
CC2 OUT 0 50P
RR1 IN X 100K
RR2 X OUT 800K
RRL 0 OUT 500K
VV1 IN 0 DC 0 PWL(0 5 5U 5 12U 0 50U 5 60U 5) AC 1 0

.PLOT AC {V(IN)} =PLOT(1) =AXIS(1)
.PLOT AC {V(OUT)} =PLOT(1) =AXIS(1)

*Selected Circuit Analyses:
.AC LIN 3 1 4

.END